US08871756B2
2-Bromo-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide
To a solution of 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine (200 mg, 0.566 mmol) in chloroform (10 mL) was added triethylamine (0.124 mL), followed by 2-bromo-2-methylpropionyl chloride (286 mg, 1.30 mmol). The resulting mixture was heated at 110° C. for 2 hours under microwave irradiation. After being cooled to room temperature, the mixture was concentrated in vacuo. The residue was diluted with ethyl acetate (35 mL), washed with brine and dried over sodium sulfate, and concentrated in vacuo. The residue was purified by flash chromatography to afford 180 mg of the title compound as a light solid (yield was 63%).

reactant | 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 0.566 mmol, 200 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N)C)=O | C19H19N3O2S
reactant | triethylamine | 0.124 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-2-methylpropionyl chloride | 1.30 mmol, 286 mg | BrC(C(=O)Cl)(C)C | C4H6BrClO
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide | 180 mg | BrC(C(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)(C)C | C23H24BrN3O3S
